US08648208B2
(2) N-[3-[2-[3-Isopropyl-6-(trifluoromethyl)benzothiophen-2-yl]ethyl]-5-methylbenzisoxazol-6-yl]acetamide
To a suspension of N-(3,5-dimethylbenzisoxazol-6-yl)acetamide (381 mg, 1.87 mmol) in anhydrous THF (15 mL) was added dropwise 2M LDA (2.3 mL, 4.6 mmol) for 30 min at −78° C. under N2 atmosphere. The mixture was stirred for 30 min at −78° C., to which a solution of 2-chloromethyl-3-isopropyl-6-(trifluoromethyl)benzothiophene (655 mg, 2.24 mmol) in THF (5.0 mL) was added dropwise for 30 min. The mixture was stirred for 2 h at the same temperature, and then warmed to room temperature. A saturated aqueous ammonium chloride and ethyl acetate were added to the reaction mixture. The organic layer was washed with water, brine, and dried over anhydrous sodium sulfate. After the solvent was removed under reduced pressure, the residue was purified by silica gel column chromatography (hexane/ethyl acetate, 1:1) to give the titled compound as a pale yellow crystal (426 mg, yield. 50%).

reactant | N-(3,5-dimethylbenzisoxazol-6-yl)acetamide | 1.87 mmol, 381 mg | CC1=NOC2=C1C=C(C(=C2)NC(C)=O)C | C11H12N2O2
reactant | LDA | 4.6 mmol, 2M, 2.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-chloromethyl-3-isopropyl-6-(trifluoromethyl)benzothiophene | 2.24 mmol, 655 mg | ClCC=1SC2=C(C1C(C)C)C=CC(=C2)C(F)(F)F | C13H12ClF3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-[2-[3-Isopropyl-6-(trifluoromethyl)benzothiophen-2-yl]ethyl]-5-methylbenzisoxazol-6-yl]acetamide | 426 mg, 50% | C(C)(C)C1=C(SC2=C1C=CC(=C2)C(F)(F)F)CCC2=NOC1=C2C=C(C(=C1)NC(C)=O)C | C24H23F3N2O2S
